US07977358B2
A) 3,5-Dimethyl-1-(5-trifluoromethyl-pyridin-3-yl)-1H-pyrazole-4-carboxylic acid ethyl ester
3,5-Dimethyl-1H-pyrazole-4-carboxylic acid ethyl ester (0.10 g, 1 mmol) (prepared as described in Tett 2002, 58, 18, p 3639), 3-bromo-5-trifluoromethyl-pyridine (0.16 g, 1 mmol), copper iodide (0.02 g, 0.2 mmol) and cesium carbonate (1.0 g, 3 mmol) were suspended in DMA (0.5 ml) and heated to 160° C. for 16 h. The reaction was diluted with EtOAc, washed repeatedly with ammonium hydroxide, brine and dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography (EtOAc:n-heptane 1:9-2:8 gradient affording the title compound (0.07 g, 35%) as a yellow oil. MS: 314.2 (MH+).

reactant | 3,5-Dimethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 1 mmol, 0.10 g | C(C)OC(=O)C=1C(=NNC1C)C | C8H12N2O2
reactant | 3-bromo-5-trifluoromethyl-pyridine | 1 mmol, 0.16 g | BrC=1C=NC=C(C1)C(F)(F)F | C6H3BrF3N
reactant | cesium carbonate | 3 mmol, 1.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMA | 0.5 ml | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper iodide | 0.2 mmol, 0.02 g | [Cu](I)I
product | 3,5-Dimethyl-1-(5-trifluoromethyl-pyridin-3-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.07 g, 35% | C(C)OC(=O)C=1C(=NN(C1C)C=1C=NC=C(C1)C(F)(F)F)C | C14H14F3N3O2
